US07056918B2
To a solution of 5-Chloromethyl-1-cyclobutyl-3-methyl-1,3-dihydro-benzoimidazol-2-one (11.92 g, 47.5 mmol) in methyl sulfoxide (50 mL) was added sodium cyanide (6.6 g). The reaction was heated to 90° C. for 2 hours then was cooled, diluted with water and extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to give (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile (11.5 g).

reactant | 5-Chloromethyl-1-cyclobutyl-3-methyl-1,3-dihydro-benzoimidazol-2-one | 47.5 mmol, 11.92 g | ClCC1=CC2=C(N(C(N2C)=O)C2CCC2)C=C1 | C13H15ClN2O
reactant | sodium cyanide | 6.6 g | [C-]#N.[Na+]
solvent | methyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile | 11.5 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CC#N)C)=O | C14H15N3O
